US08022205B2
4-[4-(2-Amino-pyrimidin-5-yl)-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl]-benzoic acid sodium salt (D-09)
Tetrahydrofuran/5M aqueous sodium hydroxide solution/30% hydrogen peroxide solution=4/2/1 solution of 4-(4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl)-benzoic acid methyl ester obtained in Example 1-D-08 was refluxed overnight, followed by neutralization with 6M hydrochloric acid. After filtering the precipitate, trifluoroacetic acid (1 ml) and concentrated sulfuric acid (2 drops) were added, followed by stirring at 40° C. for 4 hours. Concentration was carried out under reduced pressure, and water was added, followed by neutralization with 1M aqueous sodium hydroxide solution. After filtering the resulting solid, dichloromethane/hexane=9/1 was added, followed by stirring at room temperature for 30 minutes, to filter the solid. To this, 1M aqueous sodium hydroxide solution corresponding to 1 equivalent of sodium hydroxide was added, followed by stirring at room temperature for 10 minutes, and subsequently concentration was carried out under reduced pressure, to obtain the desired compound.

reactant | hydrogen peroxide | OO | H2O2
reactant | 4-(4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl)-benzoic acid methyl ester | COC(C1=CC=C(C=C1)N1CCC2=C1N=C(N=C2C=2C=NC(=NC2)N(CC2=CC=C(C=C2)OC)CC2=CC=C(C=C2)OC)N2CCOCC2)=O | C38H39N7O5
reactant | hydrochloric acid | 6M | Cl | ClH
reactant | sodium hydroxide | 1M | [OH-].[Na+]
reactant | sodium hydroxide | 1 equivalent | [OH-].[Na+]
solvent | Tetrahydrofuran | 5M | O1CCCC1 | C4H8O
product | 4-[4-(2-Amino-pyrimidin-5-yl)-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl]-benzoic acid sodium salt | [Na+].NC1=NC=C(C=N1)C=1C2=C(N=C(N1)N1CCOCC1)N(CC2)C2=CC=C(C(=O)[O-])C=C2 | InChI=1S/C21H21N7O3.Na/c22-20-23-11-14(12-24-20)17-16-5-6-28(15-3-1-13(2-4-15)19(29)30)18(16)26-21(25-17)27-7-9-31-10-8-27;/h1-4,11-12H,5-10H2,(H,29,30)(H2,22,23,24);/q;+1/p-1
